US04994478
3-(2,6-dichlorophenyl)-5-cyclohexylcarbamoyl-1,2,4-oxadiazole (Compound No. 114)
To a solution of 1 g of 3-(2,6-dichlorophenyl)-5-methoxycarbonyl-1,2,4-oxadiazole in 5 ml of toluene, was added 0.4 g of cyclohexylamine at room temperature.

reactant | 3-(2,6-dichlorophenyl)-5-methoxycarbonyl-1,2,4-oxadiazole | 1 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=N1)C(=O)OC | C10H6Cl2N2O3
reactant | cyclohexylamine | 0.4 g | C1(CCCCC1)N | C6H13N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2,6-dichlorophenyl)-5-cyclohexylcarbamoyl-1,2,4-oxadiazole | ClC1=C(C(=CC=C1)Cl)C1=NOC(=N1)C(NC1CCCCC1)=O | C15H15Cl2N3O2
